US07968564B2
Step 2: 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-[2-(methanesulfonyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
To a cold (0° C.) solution of 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-(2-hydroxyethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (250 mg, 0.52 mmol) and diisopropylethylamine (0.19 mL, 1.05 mmol) in dichloromethane (5 mL), methanesulfonic anhydride (0.1 g, 0.63 mmol) was added. The reaction mixture was allowed to warm up to room temperature and was stirred at room temperature for 2 hour. The product mixture was diluted with dichloromethane and washed with aq ammonium chloride. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to afford the title compound. This material was used in the following reaction without further purification. (ES MS M+1=556.3)

reactant | 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-(2-hydroxyethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.52 mmol, 250 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCO)=O)=O)OC)=O)C=CC1F | C23H25ClFN3O5
reactant | diisopropylethylamine | 1.05 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonic anhydride | 0.63 mmol, 0.1 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-[2-(methanesulfonyloxy)ethyl]-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCOS(=O)(=O)C)=O)=O)OC)=O)C=CC1F | C24H27ClFN3O7S
